US09427475B2
Step C: benzyl 6-({N2,N6-bis[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysyl}amino)hexanoate
In a 40 mL vial was added N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysine (150 mg, 0.324 mmol) and DMF (5 mL). The solution was cooled to 0° C. To the above solution was added ML-4 (140 mg, 0.324 mmol) in DMF (2 mL) dropwise followed by the addition of TEA (45 μL, 0.324 mmol). The reaction mixture was warmed to rt and stirred for 1 h. To the resulting mixture was added TSTU (97 mg, 0.324 mmol) followed by the addition of TEA (45 μL, 0.324 mmol). The mixture was stirred at rt for 20 min. To the resulting mixture was added a solution of 6-(benzyloxy)-6-oxohexan-1-aminium 4-methylbenzenefulfonate (127 mg, 0.324 mmol) in DMF (1.0 mL). After stirring at rt for 18 hr, the mixture was concentrated. The residue was purified by flash chromatography to give the title compound. UPLC Method B: m/e=984.5469 [M+1]; Rt=3.37 min.

reactant | N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysine | 0.324 mmol, 150 mg | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCNC(CCCCC(=O)NCCCC[C@H](N)C(=O)O)=O | C20H37N3O9
reactant | TSTU | 0.324 mmol, 97 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | 6-(benzyloxy)-6-oxohexan-1-aminium | 0.324 mmol, 127 mg | C(C1=CC=CC=C1)OC(CCCCC[NH3+])=O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | benzyl 6-({N2,N6-bis[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysyl}amino)hexanoate | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCNC(CCCCC(=O)N[C@@H](CCCCNC(CCCCC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)=O)C(=O)NCCCCCC(=O)OCC1=CC=CC=C1)=O | C47H77N5O17
